*
V1 N001 0 12
R1 N002 N001 10000
R3 N004 0 1000
R4 N004 0 1000
C1 N002 N004 0.00047
C2 N004 0 0.0001
R2 N003 N004 800
R6 N003 N002 100
R7 N003 0 1000
L1 N002 N004 0.01
.op
.backanno
.end
